US07884107B2
Sodium metal (1.05 g, 45.8 mmol) cut into small pieces was added to 2-methoxyethanol (12 mL) at room temperature under nitrogen. The reaction was heated at 75° C. until all the sodium metal dissolved (about 45 min). 3-Bromothiophene (2.49 g, 15.3 mmol) and copper(1) bromide (0.22 g, 1.53 mmol) were added to the reaction mixture and the heat was increased to 118° C. for 1.5 h. The reaction was allowed to cool to room temperature and the mixture was poured into a mixture of brine and ether (1:1, 100 mL). Vigorous stirring caused an emulsion which was removed by filtration through celite washing the filter cake with ether (40 mL). The organic layer was separated and the aqueous layer extracted with ether (3×30 mL). The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated to dryness. The residue was purified by silica gel chromatography to afford 1.83 g of 3-(2-methoxyethoxy)thiophene (76% yield) as a clear liquid. 1H NMR (300 MHz, CDCl3) δ ppm 7.17 (dd, J=5.3, 3.2 Hz, 1H), 6.80 (dd, J=5.1, 1.5 Hz, 1H), 6.26 (dd, J=3, 1.5 Hz, 1H), 4.14-4.08 (m, 2H), 3.77-3.70 (m, 2H), 3.44 (s, 3H).

reactant | Sodium | 45.8 mmol, 1.05 g | [Na] | Na
reactant | 2-methoxyethanol | 12 mL | COCCO | C3H8O2
reactant | 3-Bromothiophene | 15.3 mmol, 2.49 g | BrC1=CSC=C1 | C4H3BrS
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | brine | [Cl-].[Na+].O
catalyst | copper(1) bromide | 1.53 mmol, 0.22 g | [Cu]Br
product | 3-(2-methoxyethoxy)thiophene | 1.83 g, 76% yield | COCCOC1=CSC=C1 | C7H10O2S
